US04931469
5-(4'-phenylphenyl)-4-pentyn-1-ol was prepared from 4-pentyn-1-ol and 4'-bromobiphenyl as in Example 15, and converted into 5-(4'-phenylphenyl)-4-pentyn-1-al by the method of Example 9. N-isobutyl 7-(4'-phenylphenyl)-(2E)-hepten-6-ynamide was then prepared from 5-(4'-phenylphenyl)-4-pentyn-1-pentyn-1-al and N-isobutylacetamidotriphenylphosphonium chloride as in Example 9 and semi-hydrogenated as in Example 9 to give N-isobutyl 7-(4'-phenylphenyl)-(2E,6Z)-heptadienamide.

reactant | 4-pentyn-1-ol | C(CCC#C)O | C5H8O
reactant | 4'-bromobiphenyl | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | 5-(4'-phenylphenyl)-4-pentyn-1-al | C1(=CC=CC=C1)C1=CC=C(C=C1)C#CCCC=O | C17H14O
reactant | N-isobutyl 7-(4'-phenylphenyl)-(2E)-hepten-6-ynamide | C(C(C)C)NC(\C=C\CCC#CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C23H25NO
product | 5-(4'-phenylphenyl)-4-pentyn-1-ol | C1(=CC=CC=C1)C1=CC=C(C=C1)C#CCCCO | C17H16O
